US09193723B2
N-(4-nitrobenzyl)imidazo[1,2-a]pyridine-6-carboxamide
The title compound was prepared as described in Example 1A, substituting (4-nitrophenyl)methanamine for 3-methylbutan-1-amine and imidazo[1,2-a]pyridine-6-carboxylic acid for 4-nitrobenzoic acid.

reactant | 3-methylbutan-1-amine | CC(CCN)C | C5H13N
reactant | imidazo[1,2-a]pyridine-6-carboxylic acid | N=1C=CN2C1C=CC(=C2)C(=O)O | C8H6N2O2
reactant | 4-nitrobenzoic acid | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
product | N-(4-nitrobenzyl)imidazo[1,2-a]pyridine-6-carboxamide | [N+](=O)([O-])C1=CC=C(CNC(=O)C=2C=CC=3N(C2)C=CN3)C=C1 | C15H12N4O3
